US04146630
4-[2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole
To a suspension of 23.0 g. 2,3-diamino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzene trihydrochloride in 150 ml. water and 8.8 ml. concentrated hydrochloric acid, there is added dropwise at 0° C. a solution of 3.3 g. sodium nitrite in 37 ml. water. After standing overnight, the reaction mixture is filtered and the precipitate is recrystallized from methanol. There are obtained 9.5 g. (47% of theory) 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride; m.p. 187°-189° C.

reactant | 2,3-diamino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC=C1N)OCC(CN1CCC(CC1)COC1=CC=CC=C1)O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride | Cl.OC(COC1=CC=CC=2NN=NC21)CN2CCC(CC2)COC2=CC=CC=C2
solvent | water | O | H2O
product | 4-[2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole | OC(COC1=CC=CC=2NN=NC21)CN2CCC(CC2)COC2=CC=CC=C2 | C21H26N4O3
